US04940710
A mixture of 229.6 g of 1,3-dichloro-4-fluorobenzene and 205.34 g of aluminum chloride was heated at 80° C. A 56 g portion of acetic anhydride was added dropwise over 2 hours, then the reaction was heated at 100° C. for 8 hours, poured onto a mixture of concentrated hydrochloric acid and ice and extracted several times with ether. The ether extracts were combined, washed with water, dried and the solvents evaporated. The solid was purified by vacuum distillation, giving 156.63 g of 6-acetyl-1,3-dichloro-4-fluorobenzene.

reactant | 1,3-dichloro-4-fluorobenzene | 229.6 g | ClC1=CC(=C(C=C1)F)Cl | C6H3Cl2F
reactant | aluminum chloride | 205.34 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
product | 6-acetyl-1,3-dichloro-4-fluorobenzene | 156.63 g | C(C)(=O)C1=CC(=C(C=C1Cl)Cl)F | C8H5Cl2FO
